US06235731B1
1) Synthesis of tert-butyl 4-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepine-1-carboxylate
To a solution of 4.50 g (22.47 mmol.) of 1-tert-butoxycarbonyl-2,3,5,6-tetrahydro-7H-1,4-diazepine in ethanol (50 ml) were added, at room temperature, 4.7 ml (33.72 mmol.) of triethylamine and 4.47 g (22.45 mmol.) of 1-bromo-3-phenylpropane. The mixture was heated under reflux for 8 hours under nitrogen atmosphere. To the reaction system were further added 4.7 ml (33.72 mmol.) of triethylamine and 4.47 g (22.45 mmol.) of 1-bromo-3-phenylpropane. The mixture was heated for 16 hours under reflux, which was cooled to room temperature. To the reaction system was added ethyl acetate, which was washed with water and a saturated aqueous saline solution, followed by drying over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by means of a column chromatography. The solvent was distilled off under reduced pressure to give the object compound as a yellow liquid product. The yield was 5.41 g (76%).

reactant | 1-tert-butoxycarbonyl-2,3,5,6-tetrahydro-7H-1,4-diazepine | 22.47 mmol, 4.50 g | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
reactant | triethylamine | 33.72 mmol, 4.7 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-3-phenylpropane | 22.45 mmol, 4.47 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | triethylamine | 33.72 mmol, 4.7 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-3-phenylpropane | 22.45 mmol, 4.47 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | tert-butyl 4-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepine-1-carboxylate | C1(=CC=CC=C1)CCCN1CCN(CCC1)C(=O)OC(C)(C)C | C19H30N2O2
